US08580841B2
Step C: Preparation of 2-(7-(4-Cyclohexyl-3-(trifluoromethyl)benzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetic Acid.
A mixture of ethyl 2-(7-(4-chloro-3-(trifluoromethyl)benzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate (50 mg, 0.111 mmol), 0.5 M cyclohexylzinc(II) bromide (0.5 M in THF, 3 mL, 1.5 mmol), and bis(tri-t-butylphosphine)palladium (3 mg, 5.87 μmol) were stirred under reflux for 18 h. The mixture was allowed to cool to room temperature before water (1 mL), MeOH (1 mL) and LiOH hydrate (70 mg, 1.668 mmol) were added. The mixture was stirred at room temperature for 2 h. The mixture was purified by HPLC. Fractions containing product were basified with 1 M NaHCO3 and partially concentrated. The residue was extracted with 0.5 M citric acid and CH2Cl2. The organics were dried over MgSO4, filtered and concentrated to give the title compound as a tanned sticky solid (14.4 mg). LCMS m/z=472.2 [M+H]+; 1H NMR (400 MHz, CDCl3) δ ppm 1.38-1.50 (m, 4H), 1.76-1.85 (m, 6H), 2.11-2.17 (m, 1H), 2.58-2.65 (m, 1H), 2.75-2.93 (m, 5H), 3.56-3.60 (m, 1H), 5.07 (s, 2H), 6.84 (dd, J=8.8, 2.5 Hz, 1H), 7.00 (d, J=2.4 Hz, 1H), 7.21 (d, J=8.8 Hz, 1H), 7.46 (d, J=8.1 Hz, 1H), 7.59 (d, J=8.1 Hz, 1H), 7.70 (d, J=1.2 Hz, 1H), 8.27 (s, 1H).

reactant | ethyl 2-(7-(4-chloro-3-(trifluoromethyl)benzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate | 0.111 mmol, 50 mg | ClC1=C(C=C(COC2=CC=3C4=C(NC3C=C2)C(CC4)CC(=O)OCC)C=C1)C(F)(F)F | C23H21ClF3NO3
reactant | cyclohexylzinc(II) bromide | 1.5 mmol, 0.5 M, 3 mL | [Br-].C1(CCCCC1)[Zn+]
reactant | water | 1 mL | O | H2O
reactant | LiOH hydrate | 1.668 mmol, 70 mg | O[Li].O
catalyst | bis(tri-t-butylphosphine)palladium | 5.87 μmol, 3 mg | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
solvent | MeOH | 1 mL | CO | CH4O
product | 2-(7-(4-Cyclohexyl-3-(trifluoromethyl)benzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetic Acid | 14.4 mg | C1(CCCCC1)C1=C(C=C(COC2=CC=3C4=C(NC3C=C2)C(CC4)CC(=O)O)C=C1)C(F)(F)F | C27H28F3NO3
